US08541448B2
A 250-mL pressure tank reactor was purged, flushed and maintained with a hydrogen atmosphere, then, was added a solution of ethyl 2-(benzyl((diethoxyphosphoryl)methyl)amino)acetate (8.0 g, 23.32 mmol, 1.00 equiv) in ethanol (180 mL), acetic acid (10 mL), Pd/C (0.9 g). The resulting solution was stirred at 20 atm for 32 h at 50° C. The solids were filtered out, and the resulting mixture was concentrated under vacuum. This resulted in 6.0 g (82%) of the acetic acid salt of ethyl 2-((diethoxyphosphoryl)methylamino)acetate as a brown oil.

reactant | ethyl 2-(benzyl((diethoxyphosphoryl)methyl)amino)acetate | 23.32 mmol, 8.0 g, 1.00 equiv | C(C1=CC=CC=C1)N(CC(=O)OCC)CP(=O)(OCC)OCC | C16H26NO5P
solvent | ethanol | 180 mL | C(C)O | C2H6O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 0.9 g | [Pd] | Pd
product | ethyl 2-((diethoxyphosphoryl)methylamino)acetate | C(C)OP(=O)(OCC)CNCC(=O)OCC | C9H20NO5P
